### PR TITLE
[Merged by Bors] - fix: add beta reduction in BigOperator norm_num extensions

### PR DESCRIPTION
**Pull request by dwrensha**
Inserts a call to `Expr.betaRev` in the `cons` case of `evalFinsetBigop`. This prevents `norm_num` from getting stuck on a beta redex applied to a nat literal, as currently happens in the third example below:

```lean
import Mathlib.Tactic.NormNum
import Mathlib.Tactic.NormNum.BigOperators

open BigOperators

-- works
example : (∑ i in Finset.range 10, (i^2 : ℕ)) = 285 := by norm_num1

-- also works (via the evalOfNat extension)
example : (∑ i in Finset.range 10, (OfNat.ofNat i)) = 45 := by norm_num1

-- does not work
example : (∑ i in Finset.range 10, i) = 45 := by norm_num1
```

Also, adds a test and removes some unnecessary parens from neighboring tests.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by dwrensha** [comment]
see zulip discussion here: https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/missing.20whnf.20in.20NormNum.2ECore.3F/near/411127500

File: Mathlib/Tactic/NormNum/BigOperators.lean [hunk 1]
```diff
@@ -341,7 +341,7 @@ partial def evalFinsetBigop {α : Q(Type u)} {β : Q(Type v)}
     match ← Finset.proveEmptyOrCons s with
     | .empty pf => pure <| res_empty.eq_trans q(congr_fun (congr_arg _ $pf) _)
     | .cons a s' h pf => do
-      let fa : Q($β) := Expr.app f a
+      let fa : Q($β) ← Core.betaReduce (Expr.app f a)
```
Comment (digama0) [inline Mathlib/Tactic/NormNum/BigOperators.lean:344]:
```suggestion
      let fa : Q($β) := Expr.betaRev f #[a]
```

**Comment by semorrison** [comment]
bors merge
